US04544667
Step A: Preparation of 5-(Dimethyl)aminobenzo[b]furan
To a stirred solution of 5-aminobenzo[b]furan in CH3CN is added 37% aqueous formaldehyde followed by sodium cyanoborohydride and glacial acetic acid to give the title compound.

reactant | 5-aminobenzo[b]furan | NC1=CC2=C(OC=C2)C=C1 | C8H7NO
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH3CN | CC#N | C2H3N
product | 5-(Dimethyl)aminobenzo[b]furan | CN(C1=CC2=C(OC=C2)C=C1)C | C10H11NO
